US07667041B2
Synthesis of (E)-N-biphenyl-3-ylmethyl-3-[3-cyano-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide
To a DMF (0.2 mL) solution of (E)-3-[3-cyano-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (15 mg) and 3-phenylbenzylamine monohydrochloride (16 mg), TEA (0.007 mL), HOBT (10 mg) and EDC (14 mg) were added one by one, and the reaction mixture was agitated at room temperature overnight. The reaction mixture was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (Carrier: Chromatorex®NH, elution solvent:hexane-ethyl acetate system), and 5 mg of the title compound was obtained.

reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
reactant | (E)-3-[3-cyano-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 15 mg | C(#N)C=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H11N3O2
reactant | 3-phenylbenzylamine monohydrochloride | 16 mg | Cl.C1(=CC=CC=C1)C=1C=C(CN)C=CC1
reactant | HOBT | 10 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | EDC | 14 mg
product | (E)-N-biphenyl-3-ylmethyl-3-[3-cyano-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 5 mg | C1(=CC(=CC=C1)CNC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)C#N)=O)C1=CC=CC=C1 | C27H22N4O
